Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right-sided weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ healthy male who presents for
evaluation of 5 days of right-sided weakness following a
mechanical fall.

The patient was in his usual state of health and at work as a
___ last ___, when he had a mechanical fall after
tripping on top steps.  He landed on his right knee and 
shoulder,
without any head trauma, but rotating his neck suddenly in the
process.  Apart from mild traumatic injuries, he felt fine after
this fall and was able to return home.  The next morning however
after he awoke, he fell from the bed while trying to get up.  He
tried to get up but fell again.  He was finally able to stand 
and
walk and he went to work, but he felt lightheaded and unsteady,
so he returned home.  He and his wife presented to ___ on
___ morning for evaluation they obtained x-rays which ruled
out fractures, and he was told he had sciatica and was given
Flexeril and crutches.  Throughout the day, he began to notice
right arm weakness, which is not as apparent the previous day,
when he only had leg weakness.  Even with the crutches, he was
unable to walk.  He denies any sensory loss, vertigo, blurred or
double vision, or slurred speech.  His wife thinks that there 
was
a period when he spoke unintelligibly on ___ night, however
this was right after she took the Flexeril, and the next morning
his speech was normal again.  On ___ and ___ his symptoms
did not seem to change, and therefore he presented to ___ ED
for evaluation today.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, vertigo, tinnitus or
hearing difficulty. Denies focal numbness, parasthesiae. No 
bowel
or bladder incontinence or retention.

On general review of systems, the patient does endorse sharp 
neck
pain when he turns his head either way.  Otherwise, he denies
recent fevers, chills, night sweats, weight changes, cough,
shortness of breath, chest pain, or palpitations.  No recent
change in bowel or bladder habits. 
 
Past Medical History:
Healthy, last saw PCP ___ year ago, up-to-date with screening
colonoscopy
 
Social History:
___
Family History:
No history of stroke or other neurologic condition
 
Physical Exam:
==============
ADMISSION EXAM
==============
Physical Exam:
Vitals: temp 97.6 HR 80 BP 159/96 RR 16 spO2 98% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: Lungs CTA bilaterally
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Downward drift on right
upper extremity. No adventitious movements, such as tremor,
noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  4+   ___-  ___  4-  5    4+ 4     5     3   3

-Sensory: decreased sensation to pinprick and temperature in the
dorsal aspect of right hand as well as right lower extremity
distal to knee. Vibration is absent at toes bilaterally and at
right ankle; present at left ankle and right knee with latency 
of
~6 secs. Proprioception was intact on movements of right great
toe, but with 50% error rate on left. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response was mute bilaterally.

-Coordination: ataxic movements on the right FNF and HKS, though
unclear if out of proportion to degree of proximal weakness.

-Gait: Mild truncal ataxia upon sitting.  Unable to stand, even
with assistance.

==============
DISCHARGE EXAM
==============
- Vitals: Tm/c 98.___.3  SBP 128-156/54-74  HR 59-70  RR ___ 
94-96%  ___ 102-134
- General: Awake, alert, laying comfortably in bed.
- HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in - oropharynx
- Neck: Supple, no nuchal rigidity
- Pulmonary: Lungs CTA bilaterally
- Cardiac: RRR, nl
- Abdomen: soft, NT/ND
- Extremities: No C/C/E bilaterally
- Skin: no rashes or lesions noted

- MS: Alert and oriented to name, day/date, place, situation. 
Naming intact to high and low frequency objects. Able to recount 
history in detail. Speech fluent. 
- CN: PERRL 3-2mm, EOMI. Face symmetric, speech clear, tongue 
midline. Hearing grossly intact. 
- MOTOR: RUE drift and rebound. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     4+  4+
R  4    5   4+  ___ 4+ 4   4    4+ 3     5     3   3
- COORD: Severe appendicular ataxia on right FNF and HKS. 
- SENSATION: light touch sensation intact bilaterally
- GAIT: unable to ambulate independently
 
Pertinent Results:
====
LABS
====

___ 06:58PM BLOOD WBC-9.4 RBC-5.39 Hgb-15.3 Hct-48.5 MCV-90 
MCH-28.4 MCHC-31.5* RDW-12.8 RDWSD-42.0 Plt ___
___ 06:58PM BLOOD Neuts-65.1 ___ Monos-8.2 Eos-3.0 
Baso-0.6 Im ___ AbsNeut-6.12* AbsLymp-2.15 AbsMono-0.77 
AbsEos-0.28 AbsBaso-0.06
___ 05:20AM BLOOD WBC-10.3* RBC-5.21 Hgb-15.1 Hct-46.5 
MCV-89 MCH-29.0 MCHC-32.5 RDW-12.6 RDWSD-40.9 Plt ___
___ 08:46PM BLOOD ___ PTT-33.7 ___
___ 05:20AM BLOOD ___ PTT-31.1 ___
___ 05:15AM BLOOD ___ PTT-29.7 ___
___ 06:58PM BLOOD Glucose-86 UreaN-21* Creat-1.0 Na-142 
K-3.6 Cl-103 HCO3-24 AnGap-19
___ 06:58PM BLOOD Glucose-86 UreaN-21* Creat-1.0 Na-142 
K-3.6 Cl-103 HCO3-24 AnGap-19
___ 05:20AM BLOOD Glucose-93 UreaN-22* Creat-1.0 Na-145 
K-3.7 Cl-105 HCO3-20* AnGap-24*
___ 05:20AM BLOOD Glucose-93 UreaN-22* Creat-1.0 Na-145 
K-3.7 Cl-105 HCO3-20* AnGap-24*
___ 05:15AM BLOOD Glucose-100 UreaN-32* Creat-1.2 Na-141 
K-3.8 Cl-102 HCO3-26 AnGap-17
___ 06:58PM BLOOD ALT-19 AST-28 AlkPhos-93 TotBili-0.4
___ 05:15AM BLOOD ALT-16 AST-22 AlkPhos-90 TotBili-0.6
___ 06:58PM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:58PM BLOOD Albumin-4.5 Calcium-9.4 Phos-3.3 Mg-2.0
___ 05:20AM BLOOD Cholest-273***
___ 01:42PM BLOOD D-Dimer-1144***  
___ 05:20AM BLOOD %HbA1c-5.9 eAG-123
___ 05:20AM BLOOD Triglyc-152* HDL-50 CHOL/HD-5.5 
LDLcalc-193***
___ 05:20AM BLOOD TSH-2.6
___ 06:58PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:15AM BLOOD Beta-2-Glycoprotein 1 Antibodies 
IgG-PND***
___ 05:15AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND***

=======
IMAGING
=======
- ___ CTA head & neck (preliminary)
NCHCT
1. Hypodensity in the posterior limb of the left internal 
capsule (3:19, 20) may reflect a subacute infarct. Per the 
emergency room dashboard, neurology is aware. 
2. No acute hemorrhage. Extensive likely sequela of chronic 
small vessel ischemic disease. 
CTA head/neck:   
1. Mild calcification and noncalcified plaque at the left 
carotid bifurcation. No flow limiting stenosis, occlusion, or 
evidence of dissection in the cervical vessels. 
2. No flow-limiting stenosis, occlusion, or aneurysm greater 
than 3 mm in the intracranial vessels. 
Final read pending 3D reconstructed images. 

- ___ MRI head
1. Subacute infarcts involving the left corona radiata, 
extending to the left putamen, as well as the right caudate 
head. 
2. Punctate areas of restricted diffusion in the left occipital 
lobe are also felt to represent foci of subacute infarct. 
3. No intracranial hemorrhage. 

- ___ TTE
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). Right 
ventricular chamber size and free wall motion are normal. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Mild (1+) mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. There is an anterior space which most 
likely represents a prominent fat pad. 
 IMPRESSION: No intracardiac source of thromboembolism 
identifed. Preserved biventricular systolic function. Mildly 
dilated ascending aorta. Mild mitral regurgitation. Normal 
pulmonary artery systolic pressure.  

- ___ CT Abd/Pelvis W Contrast
1.  No evidence of for abdominal or intrapelvic malignancy or 
metastatic disease. 
2.  Please refer to dedicated CT chest report of the same date 
for the intrathoracic findings. 

- ___ CT Chest W Contrast
No findings to suggest intrathoracic malignancy or metastatic 
disease. 
Nonsuspicious 3 mm nodule in the right upper lobe lung apex. 
Moderate coronary artery calcification. 
RECOMMENDATION(S): Nonsuspicious 3 mm nodule right upper lobe 
apex: If the patient is at high risk for bronchus carcinoma 
(smoker) a ___ year follow-up chest CT may performed. If the 
patient is not at increased risk, then no follow-up required. 

- Knee Xray (3 views) ___:
FINDINGS:    
There is chondrocalcinosis at the knee joint.  There is a small 
to moderate knee joint effusion.  Some calcification of the 
distal quadriceps tendon is seen.  There is mild lateral and 
patellofemoral marginal spurring compatible with degenerative 
change.  There is vascular calcification.  No acute fracture.  
No concerning bone lesion. 
IMPRESSION:   
Degenerative change, chondrocalcinosis.  Small to moderate 
effusion. 

 
Brief Hospital Course:
Mr. ___ is a previously healthy ___ year-old man who 
presented after a fall and 5 days of right-sided weakness. Exam 
is significant for right-sided ataxic hemiparesis. Imaging 
revealed acute infarcts in the right caudate head (territory of 
the Recurrent artery of Heubner coming off the A1 on the right) 
and the left anterior choroidal artery territory. Given the 
bilaterality, a cardioembolic source was suspected but TTE was 
negative. He had no arrhythmias on telemetry, though will need 
further monitoring outpatient to look for underlying paroxysmal 
atrial fibrillation. He had significant hypertension (SBP 
160s-190s) for which he was started on lisinopril, and elevated 
lipids (LDL 193) for which he was started on high-dose 
atorvastatin. Given unclear etiology, he underwent a malignancy 
work-up with D-dimer, which was elevated at 1144, thus a CT 
torso was ordered which was negative (apart from a 3mm pulmonary 
nodule). Arterial hypercoagulability labs were also drawn (lupus 
anticoagulant, anti-cardiolipin, beta-2 glycoprotein) which were 
pending at the time of discharge and should be reviewed on 
follow-up. We recommend genetic hypercoagulability testing as an 
outpatient with Factor V Leiden and Prothrombin Mutation 
Analysis. He was ordered to receive a 30-day cardiac event 
monitor ___ of Hearts) which should be placed after he leaves 
rehab.

TRANSITIONAL ISSUES:
- Prior to discharge from rehab, call ___ to schedule 
___ placement. 
- Follow-up hypercoagulability labs.
- Appointment with stroke neurology (Dr. ___ on ___, 
11:30am. 
- Continue aspirin, atorvastatin, and lisinopril. 
- ___ require uptitration of lisinopril. 
- Recommend genetic testing of Factor V Leiden and Prothrombin 
Mutation Analysis
- an incidental 3mm pulmonary nodule was found on CT torso, 
which does not require follow up in non-smokers
- he has right knee pain after his fall. Knee Xray showed 
degenerative changes but no fracture. Please monitor knee pain 
and consider further imaging if it does not improve

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 193) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Lisinopril 5 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute Ischemic Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of right-sided weakness 
and incoordination resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- High cholesterol
- High blood pressure

We are changing your medications as follows:  
- START aspirin 81mg DAILY. 
- START atorvastatin (Lipitor) 81mg DAILY. 
- START lisinopril 5mg DAILY. 
  
Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___